US04118487
B. (2-Chlorophenyl)-imidazol-1-yl-(biphenyl-4-yl)methane
A solution of 13.6 g (0.2 mol) of imidazole in 100 ml of acetonitrile is added dropwise to a suspension of 10.8 g (0.13 mol) of sodium methylate in 200 ml of acetonitrile. The resulting sodium imidazole is filtered off and suspended in 300 ml of acetonitrile, and 31.3 g (0.1 mol) of (2-chlorophenyl)-(biphenyl-4-yl)-chloromethane are added. After heating for 24 hours to 80° C., the mixture is allowed to cool, and is filtered. The filtrate is freed from the solvent by distilling the latter off in vacuo. The oil which remains is dissolved in ethyl acetate and the solution is washed with water, dried over sodium sulfate, filtered and freed from the solvent in vacuo. The oily residue is dissolved in chloroform and chromatographed on a silica gel column. After separating off a chloroform fraction containing a compound of melting point 150° C., the chloroform fraction containing desired end product is obtained. After distilling off the solvent, 10.7 g (31% of theory) of (2-chlorophenyl)imidazol-1-yl-(biphenyl-4-yl)-methane of melting point 90° C. are obtained.

reactant | imidazole | 0.2 mol, 13.6 g | N1C=NC=C1 | C3H4N2
reactant | sodium methylate | 0.13 mol, 10.8 g | C[O-].[Na+]
reactant | (2-chlorophenyl)-(biphenyl-4-yl)-chloromethane | 0.1 mol, 31.3 g | ClC1=C(C=CC=C1)C(Cl)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H14Cl2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (2-Chlorophenyl)-imidazol-1-yl-(biphenyl-4-yl)methane | ClC1=C(C=CC=C1)C(C1=CC=C(C=C1)C1=CC=CC=C1)N1C=NC=C1 | C22H17ClN2
